US04548932
A mixture of 5-(1-benzyloxycarbonyl-4-piperidyl)valeric acid (54.8 g), sodium bicarbonate (29 g), ethyl iodide (21 ml) and N,N-dimethylformamide (150 ml) is stirred for 3 hours at 70°-80° C. After further addition of ethyl iodide (10 ml), the stirring is continued for further 3 hours at 90°-100° C. After cooling, the mixture is diluted with water and extracted with ethyl acetate (1 l). The extract is washed successively with water, 1N hydrochloric acid and sodium bicarbonate solution, dried over anhydrous magnesium sulfate and evaporated in vacuo to yield ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)valerate (58 g) as a pale yellow oil.

reactant | 5-(1-benzyloxycarbonyl-4-piperidyl)valeric acid | 54.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(=O)O | C18H25NO4
reactant | sodium bicarbonate | 29 g | C([O-])(O)=O.[Na+]
reactant | ethyl iodide | 21 ml | C(C)I | C2H5I
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 10 ml | C(C)I | C2H5I
solvent | water | O | H2O
product | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)valerate | 58 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(=O)OCC | C20H29NO4
